US04212827
10 g of β-carotene are dissolved in 500 ml of chloroform under a nitrogen atmosphere, and 60 g of sodium chlorate in 80 ml of water are added. The pH of the aqueous phase was brought to 3-4 with glacial acetic acid. 200 mg of iodine, dissolved in 100 ml of chloroform, are then added and the mixture is stirred for 20 hours at 25° C. The organic phase is then washed with four 200 ml portions of water and is dried, and the solvent is stripped off under reduced pressure. 500 ml of ethanol are added to the oily residue and the mixture is left to stand for 25 hours at -10° C. 8.2 g of crude canthaxanthin of 80.5% purity are obtained by filtration. Yield, 78.5%.

reactant | β-carotene | 10 g | CC1=C(C(CCC1)(C)C)/C=C/C(=C/C=C/C(=C/C=C/C=C(/C=C/C=C(/C=C/C2=C(CCCC2(C)C)C)\C)\C)/C)/C | C40H56
reactant | sodium chlorate | 60 g | Cl(=O)(=O)[O-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 80 ml | O | H2O
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | iodine | 200 mg | II | I2
product | canthaxanthin | 8.2 g | CC1=C(C(CCC1=O)(C)C)/C=C/C(=C/C=C/C(=C/C=C/C=C(/C=C/C=C(/C=C/C2=C(C(=O)CCC2(C)C)C)\C)\C)/C)/C | C40H52O2
